US04624953
To a solution of 35.2 g (0.20 mole) of 1-benzylpiperazine in 100 ml of CHCl3 was added dropwise over a period of 30 minutes a solution of 17.0 g (0.18 mole) of methyl chloroformate in 110 ml of CHCl3. The mixture was allowed to reflux during 2.5 hours and was made basic with 16 g of sodium hydroxide in 100 ml of water. The nonaqueous layer was separated, dried over magnesium sulphate and concentrated. The residue was distilled b.p. 108°-10° C. at 0.1-0.2 mmHg to give 34.5 g of 1-carbomethoxy-4-benzylpiperazine.

reactant | 1-benzylpiperazine | 0.20 mole, 35.2 g | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | methyl chloroformate | 0.18 mole, 17.0 g | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | 16 g | [OH-].[Na+]
solvent | CHCl3 | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 110 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 100 ml | O | H2O
product | 1-carbomethoxy-4-benzylpiperazine | 34.5 g | C(=O)(OC)N1CCN(CC1)CC1=CC=CC=C1 | C13H18N2O2
